US05972951
3,5,6,7,8,9-Hexahydro-1'-methylspiro[2H-furo[2,3-h]benzazapine-3,4'-piperidine]
5-Acetyl-3,5,6,7,8,9-hexahydro-1'-methylspiro [2H-furo[2,3-h]benzazepine-3,4'-piperidine] (D27, 0.25 g, 0.82 mmol) was stirred at reflux under Ar in c. HCl (15 ml) for 4 days. It was then evaporated to dryness, dissolved in dichloromethane, washed with K2CO3 solution, dried (Na2SO4) and evaporated to give the title compound (0.203 g) as a brown gum, still containing ca. 15% of amide (NMR). Chromatography on silica, eluting with 0-15% methanol in dichloromethane, give purer material (0.107 g, 49%)

reactant | 5-Acetyl-3,5,6,7,8,9-hexahydro-1'-methylspiro [2H-furo[2,3-h]benzazepine-3,4'-piperidine] | 0.82 mmol, 0.25 g | C(C)(=O)N1CCCCC2=C1C=C1C(=C2)OCC12CCN(CC2)C | C19H26N2O2
reactant | HCl | 15 ml | Cl | ClH
product | 3,5,6,7,8,9-Hexahydro-1'-methylspiro[2H-furo[2,3-h]benzazapine-3,4'-piperidine] | 0.203 g | CN1CCC2(CC1)COC=1C2=CC2=C(CCCCN2)C1 | C17H24N2O
